US07638515B2
200 mg (3.1 mmol) of potassium cyanide in 2 ml of water is added to 0.55 g (2.7 mmol) of 1,1,1-trifluoro-4-phenyl-butan-2-one (D. Yang; M-K. Wong; Z. Yan J. Org. Chem. (2000); 65; 4179-4184) in 4 ml of THF and 2 ml of water. It is cooled to 0° C., and 1 ml of a 25% sulfuric acid is added, allowed to heat to room temperature and stirred for 16 hours. Saturated sodium bicarbonate solution is added and extracted with ethyl acetate. After washing with saturated sodium chloride solution and drying on sodium sulfate, the crude cyanide, which is dissolved in 15 ml of diethyl ether and cooled to −70° C., is obtained quantitatively. 4.6 ml (5.5 mmol) of a 1.2 M DIBAL solution in toluene is added in drops over 10 minutes. It is allowed to heat for 2 hours to room temperature, quenched with 10% tartaric acid solution, and vigorous stirring is continued. After extraction with ethyl acetate, 5 g of silica gel and 10 ml of a 1 M sulfuric acid are added. It is stirred vigorously for 12 hours and filtered through Celite. The phases are separated, and it is extracted again with ethyl acetate. After chromatography on silica gel (hexane/ethyl acetate 30%), 300 mg of still contaminated 2-hydroxy-4-phenyl-2-(trifluoromethyl)-butanal is obtained.

reactant | potassium cyanide | 3.1 mmol, 200 mg | [C-]#N.[K+]
reactant | 1,1,1-trifluoro-4-phenyl-butan-2-one | 2.7 mmol, 0.55 g | FC(C(CCC1=CC=CC=C1)=O)(F)F | C10H9F3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | DIBAL | 1.2 M | CC(C)C[AlH]CC(C)C
solvent | water | 2 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-4-phenyl-2-(trifluoromethyl)-butanal | OC(C=O)(CCC1=CC=CC=C1)C(F)(F)F | C11H11F3O2
